### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): descent data when we have pullbacks

### PR DESCRIPTION
**Pull request by joelriou**
In this file, given a pseudofunctor `F` from `LocallyDiscrete Cᵒᵖ` to `Cat`, a family of maps `f i : X i ⟶ S` in the category `C`, chosen pullbacks `sq` and threefold wide pullbacks `sq₃` for these morphisms, we define a category `F.DescentData' sq sq₃` of objects over the `X i` equipped with a descent data relative to the morphisms `f i : X i ⟶ S`, where the data and compatibilities are expressed using the chosen pullbacks.

Co-authored-by: Christian Merten

---

- [x] depends on: #35393

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 1]
```diff
@@ -0,0 +1,275 @@
...
+  hom :=
+    { hom i := (e i).hom
+      comm := comm }
+  inv :=
+    { hom i := (e i).inv
+      comm i₁ i₂ := by
+        rw [← cancel_mono ((F.map _).toFunctor.map (e i₂).hom), Category.assoc,
+          Category.assoc, Iso.map_inv_hom_id, Category.comp_id,
+          ← cancel_epi ((F.map _).toFunctor.map (e i₁).hom),
+          Iso.map_hom_inv_id_assoc, comm i₁ i₂] }
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
  hom.hom i := (e i).hom
  hom.comm := comm
  inv.hom i := (e i).inv
  inv.comm i₁ i₂ := by
    rw [← cancel_mono ((F.map _).toFunctor.map (e i₂).hom), Category.assoc,
      Category.assoc, Iso.map_inv_hom_id, Category.comp_id,
      ← cancel_epi ((F.map _).toFunctor.map (e i₁).hom),
      Iso.map_hom_inv_id_assoc, comm i₁ i₂]
```
Purely stylistic, but the (somewhat new? I couldn’t find which release added this) ability to flatten things in `where` clauses is really nice

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 2]
```diff
@@ -0,0 +1,275 @@
...
+chosen pullbacks. -/
+noncomputable def pullHom' ⦃Y : C⦄ (q : Y ⟶ S) ⦃i₁ i₂ : ι⦄ (f₁ : Y ⟶ X i₁) (f₂ : Y ⟶ X i₂)
+    (hf₁ : f₁ ≫ f i₁ = q := by cat_disch) (hf₂ : f₂ ≫ f i₂ = q := by cat_disch) :
+    (F.map f₁.op.toLoc).toFunctor.obj (obj i₁) ⟶ (F.map f₂.op.toLoc).toFunctor.obj (obj' i₂) :=
+  pullHom (hom i₁ i₂) ((sq i₁ i₂).isPullback.lift f₁ f₂ (by cat_disch)) f₁ f₂
+
+@[reassoc]
+lemma pullHom'_eq_pullHom ⦃Y : C⦄ (q : Y ⟶ S) ⦃i₁ i₂ : ι⦄ (f₁ : Y ⟶ X i₁) (f₂ : Y ⟶ X i₂)
+    (hf₁ : f₁ ≫ f i₁ = q) (hf₂ : f₂ ≫ f i₂ = q) (p : Y ⟶ (sq i₁ i₂).pullback)
+    (hp₁ : p ≫ (sq i₁ i₂).p₁ = f₁) (hp₂ : p ≫ (sq i₁ i₂).p₂ = f₂) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
    (p : Y ⟶ (sq i₁ i₂).pullback)
    (hf₁ : f₁ ≫ f i₁ = q := by cat_disch) (hf₂ : f₂ ≫ f i₂ = q := by cat_disch)
    (hp₁ : p ≫ (sq i₁ i₂).p₁ = f₁ := by cat_disch)
    (hp₂ : p ≫ (sq i₁ i₂).p₂ = f₂ := by cat_disch) :
```
Since there are autoparams in pullHom, might as well put some here. Hopefully, this can shave off some of the `_`.

Also, it seems that using the strict implicit brackets `⦃…⦄` has a bad interaction with the `..` elaborator (with regular brackets, I can replace the proof of `pullHom'₁₂_eq_pullHom_of_chosenPullback₃` by `pullHom'_eq_pullHom ..`, but with the strict implicits, it seems one needs to write `pullHom'_eq_pullHom _ _ ..`.) This is probably a problem of this elaborator and the use of strict implicits seems justified here.

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 3]
```diff
@@ -0,0 +1,275 @@
...
+  pullHom'_eq_pullHom _ _ _ _ _ _ _ (by simp) (by simp)
+
+@[reassoc]
+lemma pullHom'₂₃_eq_pullHom_of_chosenPullback₃ (i₁ i₂ i₃ : ι) :
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₂ (sq₃ i₁ i₂ i₃).p₃ =
+      pullHom (hom i₂ i₃) (sq₃ i₁ i₂ i₃).p₂₃ _ _ :=
+  pullHom'_eq_pullHom _ _ _ _ _ _ _ (by simp) (by simp)
+
+@[reassoc]
+  lemma pullHom_pullHom' ⦃Y Y' : C⦄ (g : Y' ⟶ Y) (q : Y ⟶ S) (q' : Y' ⟶ S) (hq : g ≫ q = q')
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
lemma pullHom_pullHom' ⦃Y Y' : C⦄ (g : Y' ⟶ Y) (q : Y ⟶ S) (q' : Y' ⟶ S) (hq : g ≫ q = q')
```
Also here, autoparams could be added, but if doing so the parameters need to be reordered so that the `Prop` fields are all after the data fields.

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 4]
```diff
@@ -0,0 +1,275 @@
...
+  rw [F.mapComp'₀₂₃_hom_comp_mapComp'_hom_whiskerRight_app_assoc
+    _ _ _ _ _ _ (by rw [← Quiver.Hom.comp_toLoc, ← op_comp, IsPullback.lift_fst]) rfl
+    (by cat_disch),
+    F.mapComp'_inv_whiskerRight_mapComp'₀₂₃_inv_app _ _ _ _ _ _
+      (by rw [← Quiver.Hom.comp_toLoc, ← op_comp, IsPullback.lift_snd]) rfl (by cat_disch)]
+  simp
+
+end
+
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 5]
```diff
@@ -0,0 +1,275 @@
...
+  hom : ∀ (i j : ι), (F.map (sq i j).p₁.op.toLoc).toFunctor.obj (obj i) ⟶
+    (F.map (sq i j).p₂.op.toLoc).toFunctor.obj (obj j)
+  pullHom'_hom_self : ∀ i, pullHom' hom (f i) (𝟙 (X i)) (𝟙 (X i)) = 𝟙 _
+  pullHom'_hom_comp (i₁ i₂ i₃ : ι) :
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₁ (sq₃ i₁ i₂ i₃).p₂ ≫
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₂ (sq₃ i₁ i₂ i₃).p₃ =
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₁ (sq₃ i₁ i₂ i₃).p₃
+
+namespace DescentData'
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean:169]:
```suggestion

attribute [reassoc] pullHom'_hom_comp
```
seems harmless to have in case

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 6]
```diff
@@ -0,0 +1,275 @@
...
+    IsIso (D.hom i₁ i₂) := by
+  simpa using inferInstanceAs (IsIso (pullHom' D.hom (sq i₁ i₂).p (sq i₁ i₂).p₁ (sq i₁ i₂).p₂))
+
+/-- The type of morphisms in the category `F.DescentData' sq sq₃`. -/
+@[ext]
+structure Hom (D₁ D₂ : F.DescentData' sq sq₃) where
+  /-- The morphisms between the `obj` fields of descent data. -/
+  hom (i : ι) : D₁.obj i ⟶ D₂.obj i
+  comm (i₁ i₂ : ι) :
+    (F.map (sq i₁ i₂).p₁.op.toLoc).toFunctor.map (hom i₁) ≫ D₂.hom i₁ i₂  =
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
    (F.map (sq i₁ i₂).p₁.op.toLoc).toFunctor.map (hom i₁) ≫ D₂.hom i₁ i₂ =
```

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 7]
```diff
@@ -0,0 +1,269 @@
...
+    (F.map (sq i j).p₂.op.toLoc).toFunctor.obj (obj j)
+  pullHom'_hom_self : ∀ i, pullHom' hom (f i) (𝟙 (X i)) (𝟙 (X i)) = 𝟙 _
+  pullHom'_hom_comp (i₁ i₂ i₃ : ι) :
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₁ (sq₃ i₁ i₂ i₃).p₂ ≫
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₂ (sq₃ i₁ i₂ i₃).p₃ =
+    pullHom' hom (sq₃ i₁ i₂ i₃).p (sq₃ i₁ i₂ i₃).p₁ (sq₃ i₁ i₂ i₃).p₃
+
+namespace DescentData'
+
+attribute [reassoc] pullHom'_hom_comp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean:170]:
```suggestion
attribute [reassoc] pullHom'_hom_comp

```
My bad.

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 8]
```diff
@@ -0,0 +1,269 @@
...
+open DescentData' in
+/-- Given a pseudofunctor `F` from `LocallyDiscrete Cᵒᵖ` to `Cat`, a family of
+morphisms `f i : X i ⟶ S`, chosen pullbacks `sq i j` of `f i` and `f j` for all `i` and `j`,
+and chosen threefold wide pullbacks `sq₃`, this structure contains a description
+of objects over the `X i` equipped with a descent data relative to the morphisms `f i`,
+where the (iso)morphisms are compatibilities are considered over the chosen pullbacks. -/
+structure DescentData' where
+  /-- The objects over `X i` for all `i` -/
+  obj (i : ι) : F.obj (.mk (op (X i)))
+  /-- The compatibility morphisms after pulling back to the chosen pullback. It follows
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]:
```suggestion
  /-- The compatibility morphisms after pulling back to the chosen pullbacks. It follows
```

File: Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean [hunk 9]
```diff
@@ -0,0 +1,269 @@
...
+
+@[simp]
+lemma id_hom (D : F.DescentData' sq sq₃) (i : ι) :
+    Hom.hom (𝟙 D) i = 𝟙 _ :=
+  rfl
+
+@[reassoc, simp]
+lemma comp_hom {D₁ D₂ D₃ : F.DescentData' sq sq₃} (f : D₁ ⟶ D₂) (g : D₂ ⟶ D₃) (i : ι) :
+    (f ≫ g).hom i = f.hom i ≫ g.hom i :=
+  rfl
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/DescentDataPrime.lean]: I think `@[simps!]` on the category instance can generate those
If `@[simps!]` puts arguments of type `X.Hom Y` instead of `X ⟶ Y`, a trick that should work would be to put the quiver instance separately:
```lean
instance : Quiver (F.DescentData' sq sq₃) where Hom := Hom

@[simps!]
instance : Category (F.DescentData' sq sq₃) where
  id _ := { hom _ := 𝟙 _ }
  comp f g := { hom i := f.hom i ≫ g.hom i }

attribute [reassoc] comp_hom
```

(This is very much optional, so your call!)

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
